US08283326B2
4-(5-Iodo-2-methyl-benzyl)-phenol
To an ice-cold solution of 4-iodo-2-(4-methoxy-benzyl)-1-methyl-benzene (12.5 g) in dichloromethane (70 mL) is added a solution of boron tribromide in dichloromethane (1 mol/L, 40 mL). The resulting solution is stirred in the ice-bath for 1 h and at ambient temperature overnight. The solution is then cooled in an ice bath and saturated aqueous potassium carbonate solution is added dropwise. At ambient temperature the mixture is adjusted with aqueous hydrochloric acid (1 mol/L) to a pH of 1, the organic phase is separated, and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried (sodium sulphate) and concentrated in vacuo to give the crude product.

reactant | 4-iodo-2-(4-methoxy-benzyl)-1-methyl-benzene | 12.5 g | IC1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OC | C15H15IO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mol/L, 40 mL | ClCCl | CH2Cl2
product | 4-(5-Iodo-2-methyl-benzyl)-phenol | IC=1C=CC(=C(CC2=CC=C(C=C2)O)C1)C | C14H13IO
